US07435731B2
Step 1. Preparation of 4-Nitro-1H-pyrazole-3-carboxylic acid, ethyl ester
Acetyl chloride (50 mL) was added dropwise to ethanol (450 mL) at 0° C. with stirring. After addition was complete, the ice-bath was removed, and the mixture was stirred at room temperature for 30 minutes. To this mixture was added 4-nitro-1H-pyrazole-3-carboxylic acid (Aldrich) (10 g, 63.65 mmol), and the resulting homogeneous mixture was stirred at room temperature for a total of 48 hours. The reaction was monitored by TLC. The solvent was removed under reduced pressure and then co-evaporated with ethyl acetate four times. The residue was concentrated under high vacuum to give the title compound as a white powder (11.426 g, (M−H)+=184, M.P.=128.0-130.1° C.).

reactant | Acetyl chloride | 50 mL | C(C)(=O)Cl | C2H3ClO
reactant | 4-nitro-1H-pyrazole-3-carboxylic acid | 63.65 mmol, 10 g | [N+](=O)([O-])C=1C(=NNC1)C(=O)O | C4H3N3O4
solvent | ethanol | 450 mL | C(C)O | C2H6O
product | 4-Nitro-1H-pyrazole-3-carboxylic acid, ethyl ester | 11.426 g | [N+](=O)([O-])C=1C(=NNC1)C(=O)OCC | C6H7N3O4
